US07138420B2
To a solution of 4-fluoro-3-nitro aniline (1.00 g, 6.41 mmol) in anhydrous CH2Cl2 (25 ml) was added pyridine (1.52 g, 19.23 mmol) and the solution was cooled to 0° C. under argon. Benzoyl chloride (0.90 g, 6.41 mmol) was added slowly and the solution was then allowed to slowly warm to room temperature and stir for 24 h. The solution was poured into 1NHCl and the organic layer was separated. The aqueous layer was extracted 3× with ethyl acetate (50 ml). The combined organic layers were washed with saturated sodium bicarbonate, water, brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. The residue was purified by flash chromatography, eluting with hexane/ethyl acetate (4:1) to give N-(4-fluoro-3-nitro-phenyl)-benzamide. (1.60 g, 96%)

reactant | 4-fluoro-3-nitro aniline | 6.41 mmol, 1.00 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | pyridine | 19.23 mmol, 1.52 g | N1=CC=CC=C1 | C5H5N
reactant | Benzoyl chloride | 6.41 mmol, 0.90 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | N-(4-fluoro-3-nitro-phenyl)-benzamide | FC1=C(C=C(C=C1)NC(C1=CC=CC=C1)=O)[N+](=O)[O-] | C13H9FN2O3
